US05763444
Preparation of 1-[2-(2,3-dihydro-benzo[b]furan-3-yl)ethyl]-4-(3-methoxy-2-pyridinyl)piperazine hydrochloride
To CH3CN (100 mL) was added 2,3-dihydro-3-benzo[b]furanethanol tosylate (1.50 g, 4.7 mmol), 1-(3-methoxy-2-pyridinyl)piperazine (0.91 g, 4.7 mmol), anhydrous K2CO3 (1.95 g, 14.1 mmol), KI (0.04 g, 0.24 mmol), and tetra-n-butylammonium hydrogen sulfate (0.08 g, 0.24 mmol). The mixture was heated at reflux under N2 atmosphere for 24 h. The reaction was concentrated in vacuo, several mL of H2O added and the reaction extracted with three portions of CH2Cl2. The combined organic extracts were washed with saturated aqueous NaCl solution, dried with anhydrous K2CO3, filtered, and concentrated in vacuo. Silica gel chromatography (EtOAc) of the concentrate afforded the free base which was treated with ethanolic HCl to yield the title compound (0.85 g, 39%, mp 100°-140° C.)

reactant | 2,3-dihydro-3-benzo[b]furanethanol tosylate | 4.7 mmol, 1.50 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCC1C2=C(OC1)C=CC=C2 | C17H18O4S
reactant | 1-(3-methoxy-2-pyridinyl)piperazine | 4.7 mmol, 0.91 g | COC=1C(=NC=CC1)N1CCNCC1 | C10H15N3O
reactant | K2CO3 | 14.1 mmol, 1.95 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | Cl | ClH
catalyst | tetra-n-butylammonium hydrogen sulfate | 0.24 mmol, 0.08 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH3CN | 100 mL | CC#N | C2H3N
product | 1-[2-(2,3-dihydro-benzo[b]furan-3-yl)ethyl]-4-(3-methoxy-2-pyridinyl)piperazine hydrochloride | 0.85 g, 39% | Cl.O1C2=C(C(C1)CCN1CCN(CC1)C1=NC=CC=C1OC)C=CC=C2 | InChI=1S/C20H25N3O2.ClH/c1-24-19-7-4-9-21-20(19)23-13-11-22(12-14-23)10-8-16-15-25-18-6-3-2-5-17(16)18;/h2-7,9,16H,8,10-15H2,1H3;1H
